US05919991
Referring to FIG. 1, L-phenylalanine is provided as a solution 10, wherein the solution comprises fermentation media 12 containing L-phenylalanine. Alternatively, the fermentation media is combined with a solution of L-phenylalanine. The combined fermentation solution is added 20 to a fermentation bath, which fermentation bath is then inoculated with at least one species of yeast 22. The pH of the fermentation solution is adjusted 40 to a pH of about 7.0 with a base (e.g., NaOH) after which the fermentation solution is allowed to ferment under fermentation conditions 30, providing phenethyl alcohol.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | NaOH | [OH-].[Na+]
product | phenethyl alcohol | C(CC1=CC=CC=C1)O | C8H10O
